US04020170
13.65 g (0.1 m) of 3-chloro-3-acetylpropanol (b.p. 90°-110° C/2 mmHG; nD20 1.4740) prepared according to the method described by J. R. Stevens and G. A. Stein, J. Am. Chem. Soc. 62, 1045 (1940), were refluxed with 18.6 g (0.15 m) potassium thiolacetate in 100 ml of acetone for about 2 hours. After cooling the reaction mixture was filtered and the filtrate evaporated to dryness and the residue dissolved in water. The aqueous solution was extracted five times with chloroform and the combined extracts washed, dried and evaporated. Distillation of the residue yielded 3-thioacetoxy-2-methyl-4,5-dihydrofuran, b.p. 57°-59° C/0.6 mmHg.

reactant | 3-chloro-3-acetylpropanol | 13.65 g | ClC(CCO)C(C)=O | C5H9ClO2
reactant | potassium thiolacetate | 18.6 g | S1C(=CC=C1)CC(=O)[O-].[K+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-thioacetoxy-2-methyl-4,5-dihydrofuran | C(C)(=S)OC1=C(OCC1)C | C7H10O2S
